US04359475
1-Chloro-4-(2,4-dimethylphenyl)-4-butanone (5.16 g) and imidazole (8.34 g) in dimethylformamide (10 ml) at 0° C. were stirred overnight at ambient temperature, then one day at 80° C. The resulting mixture was poured into water (200 ml), extracted with ether (3×75 ml) and the extracts were dried (magnesium sulfate) and evaporated. Chromatography of the product on silica gel eluting with 7% methanol in methylene chloride gave 3.5 g of 1-[4-(2,4-dimethylphenyl)butan-4-on-1-yl]imidazole.

reactant | 1-Chloro-4-(2,4-dimethylphenyl)-4-butanone | 5.16 g | ClCCCC(=O)C1=C(C=C(C=C1)C)C | C12H15ClO
reactant | imidazole | 8.34 g | N1C=NC=C1 | C3H4N2
reactant | water | 200 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-[4-(2,4-dimethylphenyl)butan-4-on-1-yl]imidazole | 3.5 g | CC1=C(C=CC(=C1)C)C(CCCN1C=NC=C1)=O | C15H18N2O
